US06521663B2
1. Ethyl 2-(4-fluoronaphthyl)-2-oxoacetate
A solution of n-butyllithium (2.5 M in THF, 20 mL, 50 mmol) was cooled to −78° C., and a solution of 1-bromo-4-fluoronaphthalene (11.25 g, 50 mmol) in THF (40 mL) was added slowly and the mixture was stirred for 1 hour. The reaction mixture was warmed to −20° C., then added to a solution of diethyl oxalate (29.2 g,200 mmol) in THF (40 mL) at −78° C. After slowly warming-up to room temperature, EtOAc (100 mL), 10% HCl (50 mL) and water (50 mL) were added and the phases were separated. The aqueous layer was extracted with EtOAc (2×100 mL), and the organic layers were combined, washed with brine (50 mL), and dried over Na2SO4. After evaporating the solvent and the excess diethyl oxalate under high vacuum, the residue was purified by flash column chromatography (1:1 DCM:hexane) to give the title compound (9.4 g, 76% yield) as a white solid. 1H-NMR (400 MHz, CDCl3) δ (9.13 (d, J=8.6 Hz, 1H), 8.20 (d, J=8.4 Hz, 1H), 8.01 (dd, J=8.2, 5.4 Hz, 1H), 7.76 (t, J=7.2 Hz, 1H), 7.67 (t, J=8.1 Hz, 1H), 7.21 (t, J=8.5 Hz, 1H), 4.49 (q, J=7.1 Hz, 2H), 1.45 (t, J=7.1 Hz, 3H).

reactant | n-butyllithium | 50 mmol, 2.5 M, 20 mL | C(CCC)[Li]
reactant | 1-bromo-4-fluoronaphthalene | 50 mmol, 11.25 g | BrC1=CC=C(C2=CC=CC=C12)F | C10H6BrF
reactant | diethyl oxalate | 200 mmol, 29.2 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | 50 mL | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Ethyl 2-(4-fluoronaphthyl)-2-oxoacetate | 9.4 g, 76% yield | FC1=CC=C(C2=CC=CC=C12)C(C(=O)OCC)=O | C14H11FO3
